US07338974B2
Step B (5): A solution of LiOH (2 M, 69 mg, 2.9 mmol) in 1.4 mL of H2O was added to diastereomer A, (S)-methyl 2-((S)-3-butyl-2-oxopyrrolidin-1-yl)pent-4-enoate, (242 mg, 0.96 mmol) from Step B (4) in THF (1.4 mL). The reaction mixture was stirred at room temperature for 3 days. The mixture was poured into 1 N HCl and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over NaSO4 and concentrated in vacuo to give 182 mg of (S)-2-((S)-3-butyl-2-oxopyrrolidin-1-yl)pent-4-enoic acid as colorless oil: LC-MS (M+H)+=240.2; 1H NMR (500 MHz, CDCl3) δ 5.60-5.82 (m, 1H), 5.03-5.21 (m, 2H), 4.74 (dd, J=10.68, 4.88 Hz, 1H), 3.38-3.48 (m, 1H), 3.29-3.38 (m, 1H), 2.70-2.81 (m, 1H), 2.51-2.62 (m, 1H), 2.36-2.49 (m, 1H), 2.11-2.25 (m, 1H), 1.79-1.91 (m, 1H), 1.66-1.79 (m, 1H), 1.23-1.43 (m, 5H), 0.80-0.96 (m, 3H).

reactant | LiOH | 2.9 mmol, 2 M, 69 mg | [Li+].[OH-]
reactant | (S)-methyl 2-((S)-3-butyl-2-oxopyrrolidin-1-yl)pent-4-enoate | 0.96 mmol, 242 mg | C(CCC)[C@@H]1C(N(CC1)[C@H](C(=O)OC)CC=C)=O | C14H23NO3
reactant | HCl | 1 N | Cl | ClH
solvent | H2O | 1.4 mL | O | H2O
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | (S)-2-((S)-3-butyl-2-oxopyrrolidin-1-yl)pent-4-enoic acid | 182 mg | C(CCC)[C@@H]1C(N(CC1)[C@H](C(=O)O)CC=C)=O | C13H21NO3
